US06432294B1
As an example of the benefits that can be realized by use of the two-step procedure, controlled potential electrolysis of dimethyl disulfide in the presence of acenaphthylene in the absence of an organic nucleophilic base resulted in copious polymer formation. But when the same electrolysis procedure was conducted in the additional presence of pyridine, an oxidation-resistant adduct of this invention formed which on eliminative aromatization in the second step resulted in the production of 1-methylthioacenaphthylene in 76% yield using electrochemical reductive elimination.

reactant | dimethyl disulfide | CSSC | C2H6S2
reactant | acenaphthylene | C1=CC2=CC=CC3=CC=CC1=C23 | C12H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-methylthioacenaphthylene | 76% yield | CSC1=CC2=CC=CC3=CC=CC1=C23 | C13H10S
